US06043375
To a solution of 1.3 g of methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-(4-iodophenyl)-5-oxazolidinecarboxylate in 25 cm3 of ethanol is added, at a temperature in the region of 25° C., a solution of 0.35 g of lithium hydroxide hydrate in 8 cm3 of distilled water. The reaction medium is stirred for 30 minutes at a temperature in the region of 25° C. and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The evaporation residue is dissolved in 20 cm3 of distilled water and the solution obtained is washed with twice 15 cm3 of diethyl ether, acidified to a pH in the region of 2 by addition of aqueous 1N hydrochloric acid solution and extracted with twice 40 cm3 of ethyl acetate. The organic phases are combined, washed with twice 10 cm3 of distilled water, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 1.3 g of (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-(4-iodophenyl)-5-oxazolidinecarboxylic acid are thus obtained in the form of a yellow oil.

reactant | methyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-(4-iodophenyl)-5-oxazolidinecarboxylate | 1.3 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=C(C=C1)I)C(=O)OC)(C)C | C18H24INO5
reactant | lithium hydroxide hydrate | 0.35 g | O.[OH-].[Li+]
solvent | ethanol | 25 cm3 | C(C)O | C2H6O
solvent | water | 8 cm3 | O | H2O
product | (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-(4-iodophenyl)-5-oxazolidinecarboxylic acid | 1.3 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=C(C=C1)I)C(=O)O)(C)C | C17H22INO5
